US04301280
p-Nitrobenzyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate
To a stirred solution of p-nitrobenzyl α-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-α-(1-hydroxyethylidene)acetate (9.38 g.) in tetrahydrofuran (120 ml.) under a nitrogen atmosphere at 20° C. was added triethylamine (3.21 ml.) followed by phenyl phenylphosphonochloridate (5.82 g.) After stirring for 2 hours at 20° C., the reaction mixture was cooled to 0° C. and morpholine (4.01 ml.) added. After stirring for 2.5 hours at 0°-5° C., the mixture was cooled to -30° to -35° C. and pyridine (1.62 ml.) added followed by dropwise addition of bromine (1.00 ml.) over a period of 10 minutes. The reaction mixture was stirred at -30° to -35° C. for 20 minutes and 5% hydrochloric acid (144 ml.) added. After stirring at 20° C. overnight the mixture was extracted with dichloromethane and the extracts washed with water and saturated sodium chloride solution, dried with magnesium sulphate and evaporated to dryness. The residue was dissolved in glacial acetic acid (10 ml.) and the resulting solution stirred for approximately 10 minutes to crystallise the product. The crystallisation was completed by addition of isopropanol (120 ml.) over 0.5 hour. The crystals were isolated by filtration, washed with isopropanol and dried in vacuo at 40° C. overnight. The yield of p-nitrobenzyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate acetic acid solvate was 8.29 g. (76%).

reactant | p-nitrobenzyl α-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-α-(1-hydroxyethylidene)acetate | 9.38 g | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O | C22H19N3O7S
reactant | phenyl phenylphosphonochloridate | 5.82 g | C1(=CC=CC=C1)P(OC1=CC=CC=C1)(=O)Cl | C12H10ClO2P
reactant | morpholine | 4.01 ml | N1CCOCC1 | C4H9NO
reactant | bromine | 1.00 ml | BrBr | Br2
reactant | hydrochloric acid | 144 ml | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1.62 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 3.21 ml | C(C)N(CC)CC | C6H15N
product | p-Nitrobenzyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H19N3O8S
